US04153717
Following the procedure of Example 1a, using trans-N-methyl-N-[2-(3-hydroxy-1-pyrrolidinyl)cyclohexylamine, carbonyldiimidazole and 3,4-dichlorobenzoic acid there is obtained N-methyl-N-[2-(3-hydroxy-1-pyrrolidinyl)-cyclohexyl]-3,4-dichlorobenzamide

reactant | 2-(3-hydroxy-1-pyrrolidinyl)cyclohexylamine | OC1CN(CC1)C1C(CCCC1)N | C10H20N2O
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,4-dichlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1Cl | C7H4Cl2O2
product | N-methyl-N-[2-(3-hydroxy-1-pyrrolidinyl)-cyclohexyl]-3,4-dichlorobenzamide | CN(C(C1=CC(=C(C=C1)Cl)Cl)=O)C1C(CCCC1)N1CC(CC1)O | C18H24Cl2N2O2
